US07459451B2
A mixture of [4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol (730 mg), 4-methylmorpholine N-oxide (352 mg) in DCM (20 ml) was added tetrapropylammonium perrutenate (70.3 mg) at room temperature and the mixture was stirred at room temperature for 3 hours. The reaction mixture was filtered through celite pad. The filtrate was washed with saturated aqueous ammonium chloride, saturated aqueous NaHCO3, water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel eluting with a mixture of MeOH and CHCl3 (1:10) to give 4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde (660 mg) as a yellow oil.

reactant | [4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridin-5-yl]methanol | 730 mg | ClC1=CC=C(C=N1)C1=C2C(=NC(=C1CO)C1=CC=CC=C1)N(N=C2)CC | C20H17ClN4O
reactant | 4-methylmorpholine N-oxide | 352 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | tetrapropylammonium | 70.3 mg | C(CC)[N+](CCC)(CCC)CCC
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(6-chloro-3-pyridyl)-1-ethyl-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carbaldehyde | 660 mg | ClC1=CC=C(C=N1)C1=C2C(=NC(=C1C=O)C1=CC=CC=C1)N(N=C2)CC | C20H15ClN4O
